US04147864
A mixture of 670 mg (1 mmol) of 2-[4-(p-toluenesulphonylthio)-3-phenylacetamido-2-oxoazetidin-1-yl]-3-methoxy-crotonic acid diphenylmethyl ester, 6.7 ml of 1,2-dimethoxyethane and 0.22 ml of 1,5-diazabicyclo[5.4.0]undec-5-ene is stirred for 25 minutes at room temperature under a nitrogen atmosphere. The reaction mixture is diluted with toluene, washed successively with 2 N hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated by evaporation in vacuo. The residue, after preparative thick layer chromatography on silica gel using toluene/ethyl acetate, 1:1, gives 7β-phenylacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid diphenylmethyl ester of melting point 166-169° C. (from methylene chloride/hexane), UV spectrum (ethanol): λmax = 258 mμ (ε = 4,500) IR spectrum (methylene chloride): characteristic bands at 2.93, 5.62, 5.73, 5.93 and 6.66 μ, Rf value~0.54 (silica gel; system toluene/ethyl acetate, 1:1), and amorphous 7β-phenylacetamido-3-methoxy-ceph-3-em-4-carboxylic acid diphenylmethyl ester, UV spectrum (ethanol): λmax =258 mμ (ε = 6,350), 264 mμ (ε = 6,350), 282 mμ (ε = 5,600) (shoulder), IR spectrum (methylene chloride): characteristic bands at 2.94, 5.63, 5.83, 5.94, 6.26 and 6.66 μ, Rf value~0.37 (silica gel; system toluene/ethyl acetate, 1:1), in the ratio of 8:1.

reactant | 2-[4-(p-toluenesulphonylthio)-3-phenylacetamido-2-oxoazetidin-1-yl]-3-methoxy-crotonic acid diphenylmethyl ester | 1 mmol, 670 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/OC)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(CC1=CC=CC=C1)=O)=O)=O | C36H34N2O7S2
reactant | 1,2-dimethoxyethane | 6.7 ml | COCCOC | C4H10O2
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 0.22 ml | N12CCCN=CC2CCCC1 | C9H16N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7β-phenylacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)OC | C29H26N2O5S
